US08026257B2
(±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate.
(±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol (1.07 g, 2.44 mmol) was dissolved in diethyl ether (10 mL), cooled to 0° C. and treated with 1,8-diazabicyclo(5.4.0)undec-7-ene (70 μL, 0.49 mmol). The reaction was stirred for 10 min and treated with trichloroacetonitrile (370 μL, 3.65 mmol) dropwise over 10 min. The reaction was allowed to warm to room temperature overnight and concentrated. Flash chromatography on silica gel (5% ethyl acetate/hexanes) gave 1.29 g (91%) as an oil. 1H-NMR (CDCl3, 300 MHz) δ 8.25 (s, 1H), 7.86 (s, 1H), 6.66 (q, J=6.6 Hz, 1H), 6.27 (d, J=11.7 Hz, 1H), 5.68 (d, J=11.7 Hz, 1H), 3.52-3.59 (m, 2H), 1.77 (d, J=6.6 Hz, 3H), 0.82-0.87 (m, 2H), 0.05 (s, 9H).

reactant | (±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethanol | 2.44 mmol, 1.07 g | BrC=1N(N=C2C(=CC(=CC12)C(F)(F)F)C(C)O)COCC[Si](C)(C)C | C16H22BrF3N2O2Si
reactant | 1,8-diazabicyclo(5.4.0)undec-7-ene | 0.49 mmol, 70 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | trichloroacetonitrile | 3.65 mmol, 370 μL | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | (±)-1-(3-Bromo-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)ethyl 2,2,2-trichloroacetimidate | ClC(C(OC(C)C1=CC(=CC2=C(N(N=C12)COCC[Si](C)(C)C)Br)C(F)(F)F)=N)(Cl)Cl | C18H22BrCl3F3N3O2Si
